* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADP5056.asc
* Generated by LTspice 24.1.9 for Windows.
L1 N005 OUT1 .8µ Rser=10m
R11 OUT1 N002 100K
R1 OUT1 N008 6.67k
R2 N008 0 10k
C1 OUT1 0 470µ Rser=6m
Rload1 OUT1 0 1
C6 0 N001 4.7µ
R12 N021 0 215K
C2 N004 N005 .1µ
C4 N010 N011 .1µ
L3 N017 OUT3 2.2µ Rser=86m
R5 OUT3 N020 15k
R6 N020 0 10k
C5 OUT3 0 47µ x3 Rser=6m
Rload3 OUT3 0 5
C7 N016 N017 .1µ
R8 N022 0 23.7k
R9 N003 0 402k
C8 N006 0 1.2n
R10 N007 N006 22.6k
R13 N009 0 402k
C10 N018 0 2.7n
R16 N019 N018 40.2k
C9 N012 0 1.2n
R14 N013 N012 22.6k
R15 N015 0 499k
V1 IN 0 13.2
L2 N011 OUT2 .8µ Rser=10m
R3 OUT2 N014 6.67k
R4 N014 0 10k
C3 OUT2 0 470µ Rser=6m
Rload2 OUT2 0 1
X§U1 0 N022 N003 N008 N007 N021 IN 0 N001 IN IN N004 N016 0 N017 IN N010 IN N015 N020 N019 N002 IN N013 N014 N009 IN N011 N005 IN ADP5056
.tran 2.5m startup
* Note: The sequence control on each channel is not modeled.
.lib ADP5056.sub
.backanno
.end
